US07666864B2
Step 2: (6S)-6-[(4-Bromopyridin-2-yl)methoxy]-2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazine.
A solution of (S)-2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxa-zin-6-ol (2.87 g, 15.5 mmol) and 4-bromo-2-(chloromethyl)pyridine (2.91 g, 14 mmol) in dry DMF (60 mL) was treated with NaH (0.68 g of a 60% dispersion in mineral oil, 16.9 mmol,) at 0-5° C., and the mixture was stirred at room temperature for 3 h, then quenched with water (150 mL) and extracted with EtOAc (6×150 mL). The organic layers were dried (MgSO4), evaporated, and chromatographed on silica gel, eluting with MeOH/EtOAc (1:19), to give the title compound (2.701 g, 54%) as a light yellow solid. APCI MS m/z 355.7, 357.7 (M+H). 1H NMR (400 MHz, (CD3)2SO) 68.41 (d, J=5.3 Hz, 1H), 8.01 (s, 1H), 7.59 (dd, J=5.3, 1.9 Hz, 1H), 7.55 (d, J=1.5 Hz, 1H), 4.78-4.68 (m, 3H), 4.50 (d, J=12.0 Hz, 1H), 4.35-4.22 (m, 3H).

reactant | (S)-2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxa-zin-6-ol | 15.5 mmol, 2.87 g | [N+](=O)([O-])C=1N=C2OC[C@H](CN2C1)O | C6H7N3O4
reactant | 4-bromo-2-(chloromethyl)pyridine | 14 mmol, 2.91 g | BrC1=CC(=NC=C1)CCl | C6H5BrClN
reactant | NaH | [H-].[Na+]
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | (6S)-6-[(4-Bromopyridin-2-yl)methoxy]-2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazine | 2.701 g, 54% | BrC1=CC(=NC=C1)CO[C@H]1CN2C(OC1)=NC(=C2)[N+](=O)[O-] | C12H11BrN4O4
